US05559113
4-[2-(4-Methoxyphenoxy)ethyl]-1H-imidazole
240 mg (60% in oil, 6 mmol) of sodium hydride are slowly added to a solution of 1.48 g (12 mmol) of 4-methoxyphenol in 7 ml of dimethylformamide and the mixture is stirred at room temperature for 1 hour. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalyst) are added and the mixture is stirred at 80° C. for 2 days. The reaction mixture is cooled and 150 ml of diethyl ether are added. The precipitate is separated by filtration and the filtrate is evaporated under reduced pressure to give a residue which is purified by preparative high performance chromatography. The title compound is converted to the oxalate and recrystallized from ethanol, M.p.: 178°-181° C. Elemental analysis: calculated: C 55.8 H 5.37 N 9.5 found: C 55.9 H 5.40 N 9.6

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 4-methoxyphenol | 12 mmol, 1.48 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(4-Methoxyphenoxy)ethyl]-1H-imidazole | COC1=CC=C(OCCC=2N=CNC2)C=C1 | C12H14N2O2
